US04379780
17α-Dihydroequilin (1 g), p-toluenesulfonic acid (1 g), and acetic anhydride (40 ml) were heated in an oil bath at 100° C. until a clear solution was obtained and then left at room temperature in the dark for 2 days. At this time TLC showed no detectable amount of 17α-dihydroequilin. The mixture was poured into a solution of pyridine (30 ml) and water (400 ml), acidified with 4 N hydrochloric acid and extracted with diethyl ether (300 ml). The ether phase was washed with water (150 ml) and evaporated to dryness in vacuo. The product was dissolved in methanol (75 ml), heated to 60° C. and water (40 ml) added. After cooling, 1.14 g of 1,3,5(10),7-estratetraene-3,17α-diol 3,17-diacetate was obtained, m.p. 124°-126° C.

reactant | 17α-Dihydroequilin | 1 g | C[C@]12CC[C@H]3C(=CCC4=C3C=CC(=C4)O)[C@@H]1CC[C@H]2O | C18H22O2
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | water | 400 ml | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1,3,5(10),7-estratetraene-3,17α-diol 3,17-diacetate | 1.14 g | C(C)(=O)OC1=CC=2CC=C3[C@@H]4CC[C@H]([C@@]4(C)CC[C@@H]3C2C=C1)OC(C)=O | C22H26O4
